US08877760B2
5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-methylisothiazol-5-ylamino)pyrazine-2-carboxamide
A mixture of 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-chloropyrazine-2-carbonitrile (74 mg, 0.257 mmol), 3-methylisothiazol-5-amine hydrochloride (50 mg, 0.332 mmol), K2CO3 (100 mg, 0.724 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 5 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-methylisothiazol-5-ylamino)pyrazine-2-carbonitrile (80 mg). The compound 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-methylisothiazol-5-ylamino)pyrazine-2-carbonitrile (80 mg, 0.219 mmol) was dissolved in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (30%, 1.0 mL) were added. The mixture was stirred at room temperature for 30 min. HOAc (0.5 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (44 mg). MS 384.2 (M+H); UV 209.0, 270.7, 321.3 nm; t 0.362 min.

reactant | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-methylisothiazol-5-ylamino)pyrazine-2-carbonitrile | 0.219 mmol, 80 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C#N)NC1=CC(=NS1)C | C15H17F2N7S
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-methylisothiazol-5-ylamino)pyrazine-2-carboxamide | 44 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C(=O)N)NC1=CC(=NS1)C | C15H19F2N7OS
